US07964678B2
Add 2 g 2-naphthol, 11.4 g FeCl3.6H2O and 100 ml water into a 200 ml beaker and agitate them at 65° C. by water bath; conduct TLC (thin-layer chromatography) track and maintain the reaction for 3 h; filter the solution to get solid 2,2′-dihydroxyl-1,1′-binaphthyl; scrub 2,2′-dihydroxyl-1,1′-binaphthyl with 50 ml water and add the cleaning solution into the filtrate; add 7.5 ml 30% H2O2 dropwise slowly into the filtrate while agitation and agitate the solution continuously for 10 min; add 2 g 2-naphthol and maintain the reaction at 65° C. while agitation; conduct TLC track until the reaction finishes; filter the solution to obtain 2,2′-dihydroxyl-1,1′-binaphthyl. Repeat these steps and obtain results as shown in Table 6. The HPLC analysis results of the reaction product obtained in the 11th time of cycle are: the conversion of 2-naphthol ≧98%, and the yield of 2,2′-dihydroxyl-1,1′-binaphthyl ≦99%.

reactant | 2-naphthol | 2 g | C1=C(C=CC2=CC=CC=C12)O | C10H8O
solvent | water | 100 ml | O | H2O
product | 2,2′-dihydroxyl-1,1′-binaphthyl | OC1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)O | C20H14O2
